* source HBRIDGE
R_R8         N03767 N03783 100
R_R1         N03583 N03557 100R
V_V1         N03377 0 12VDC
R_R9         N03791 N03745 100
R_R7         N03525 N03377 1k
R_R6         N03745 N03761 10k
V_V4         N03767 0  
+PULSE 0 5 100u 10u 10u 50u 100u
V_V3         N03745 0 0
Q_Q1         N03525 N03761 0 QbreakN 
R_R5         N04776 N03767 10k
Q_Q2         N03543 N04776 0 QbreakN 
M_M4         N03583 N03791 0 0 power_Mbreakn           
R_R3         N03543 N03377 1k
M_M3         N03557 N03783 0 0 power_Mbreakn           
M_M8         N03557 N03525 N03377 N03377 M2N6845
M_M7         N03583 N03543 N03377 N03377 M2N6845
