* source HBRIDGE
R_R8         N03767 N03951 100
R_R1         N03583 N03557 2R
V_V1         N03377 0 24VDC
R_R9         N03791 N03745 100
R_R7         N03525 N03377 1K
R_R6         N03745 N03761 10k
V_V4         N03767 0  
+PULSE 0 5 100u 10u 10u 50u 100u
V_V3         N03745 0 0
Q_Q1         N05618 N03761 0 QbreakN 
R_R5         N04776 N03767 10k
Q_Q2         N05606 N04776 0 QbreakN 
R_R3         N03543 N03377 1k
X_D1         N05606 N03543 awbbzx84c5v1 PARAMS:               
X_D2         N05618 N03525 awbbzx84c5v1 PARAMS:               
X_U1         N03557 N03951 0 IRFRU4105
X_U2         N03557 N03525 N03377 IRFRU5305
X_U3         N03583 N03543 N03377 IRFRU5305
X_U4         N03583 N03791 0 IRFRU4105
